US07262185B2
[4-nitro-2-(2,2,2-trifluoroethoxy)phenyl](pyridin-2-yl)methanol (4.5 g) was dissolved in ethanol (150 ml), and the solution was reduced by catalytic hydrogenation overnight with 10% palladium-carbon of 50% hydration (0.25 g). The catalyst was removed, and the solvent of the filtrate was distilled off. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate), to give [4-amino-2-(2,2,2-trifluoroethoxy)phenyl](pyridin-2-yl)methanol (3.6 g) as yellow crystals.

reactant | [4-nitro-2-(2,2,2-trifluoroethoxy)phenyl](pyridin-2-yl)methanol | 4.5 g | [N+](=O)([O-])C1=CC(=C(C=C1)C(O)C1=NC=CC=C1)OCC(F)(F)F | C14H11F3N2O4
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | [4-amino-2-(2,2,2-trifluoroethoxy)phenyl](pyridin-2-yl)methanol | 3.6 g | NC1=CC(=C(C=C1)C(O)C1=NC=CC=C1)OCC(F)(F)F | C14H13F3N2O2
